US06191150B1
To a stirred solution of diisopropylamine (19.4 mL, 139 mmol) in 70 mL of THF at −78° C. is added dropwise 86.6 mL (139 mmol) of 1.6 M n-butyllithium in hexanes over 15 min. After 1 h, a solution of methyl (3R)-3-hydroxyhexanoate (9.2 g, 63 mmol) in 10 mL of THF is added dropwise over several minutes. The reaction mixture is stirred 1 h, then treated with a solution of 3-bromo-2-methyl-1-propene (7.6 mL, 75.6 mmol) in 10 mL of HMPA and is allowed to stand at −20° C. overnight. The reaction mixture is poured into ice-cold 1 N hydrochloric acid (300 mL) and extracted with two 200-mL portions of EtOAc. The combined organic layers are washed with two 100-mL portions of saturated aqueous sodium chloride, dried over sodium sulfate, and filtered. The solvents are removed under reduced pressure. Purification by flash chromatography on silica gel eluting with 10% EtOAc-hexanes affords 7 g (55%) of methyl (2R,3R)-2-(2-methyl-2-propene-1-yl)-3-hydroxyhexanoate as an oil.

reactant | diisopropylamine | 139 mmol, 19.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 139 mmol, 1.6 M, 86.6 mL | C(CCC)[Li]
reactant | methyl (3R)-3-hydroxyhexanoate | 63 mmol, 9.2 g | O[C@@H](CC(=O)OC)CCC | C7H14O3
reactant | 3-bromo-2-methyl-1-propene | 75.6 mmol, 7.6 mL | BrCC(=C)C | C4H7Br
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | HMPA | 10 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | methyl (2R,3R)-2-(2-methyl-2-propene-1-yl)-3-hydroxyhexanoate | 7 g, 55% | CC(C[C@@H](C(=O)OC)[C@@H](CCC)O)=C | C11H20O3
